US04443466
(a) 2,6-Dichlorobenzylglyoxal diethyl acetal
2.4 g of magnesium turnings are covered with 100 ml of dry diethyl ether. To that mixture is then added dropwise a solution of 24 g of 2,6-dichlorobenzylbromide in 50 ml of dry diethyl ether at such a rate that a smooth reaction is maintained. After the addition is complete, the reaction mixture is refluxed for one additional hour, then is cooled to room temperature. The reaction mixture is then added dropwise, over a period of 2 hours, to a cooled (0°-5° C.) solution of diethyoxyacetic acid piperidinyl amide (21.5 g) in 100 ml of diethyl ether. After the addition is complete, the reaction mixture is stirred for an additional hour at 5° C. The mixture is then poured into cold sulfuric acid (400 ml of water containing 30 ml of concentrated sulfuric acid). The ether layer is separated and evaporated to dryness. The residue, which consists of crude 2,6-dichlorobenzylglyoxal diethylacetal, is distilled under reduced pressure (130°-140° C./1 mmHg) and used in Example 49(b) and 50(a) set forth below.

reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | 2,6-dichlorobenzylbromide | 24 g | ClC1=C(CBr)C(=CC=C1)Cl | C7H5BrCl2
reactant | diethyoxyacetic acid piperidinyl amide | 21.5 g | N1(CCCCC1)NC(C(OCC)OCC)=O | C11H22N2O3
reactant | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,6-Dichlorobenzylglyoxal diethyl acetal | C(C)OC(C=O)(CC1=C(C=CC=C1Cl)Cl)OCC | C13H16Cl2O3
